* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0026451482735437874
Fd1_1 0 s1 V1 -0.13225741367718938
Gr1_re_1_1 0 s1 x1_re_a1 0 3786892640.1085258
Gr1_im_1_1 0 s1 x1_im_a1 0 -369195429.5003565
Gr2_re_1_1 0 s1 x2_re_a1 0 -391888086.741233
Gr2_im_1_1 0 s1 x2_im_a1 0 -2769235348.3693657
Gr3_re_1_1 0 s1 x3_re_a1 0 -141902606.95781425
Gr3_im_1_1 0 s1 x3_im_a1 0 37245587.18096826
Gr4_re_1_1 0 s1 x4_re_a1 0 -57246474.62099598
Gr4_im_1_1 0 s1 x4_im_a1 0 60140987.6781673
Gr5_re_1_1 0 s1 x5_re_a1 0 -6668246.121015916
Gr5_im_1_1 0 s1 x5_im_a1 0 -71877914.59293
Gr6_re_1_1 0 s1 x6_re_a1 0 61822012.02736782
Gr6_im_1_1 0 s1 x6_im_a1 0 -36077626.18487732
Gd1_2 0 s1 p2 0 -4.689912722981052e-06
Fd1_2 0 s1 V2 -0.0002344956361490526
Gr1_re_1_2 0 s1 x1_re_a2 0 8506564.813139614
Gr1_im_1_2 0 s1 x1_im_a2 0 -4190941.6567882304
Gr2_re_1_2 0 s1 x2_re_a2 0 7116458.92262466
Gr2_im_1_2 0 s1 x2_im_a2 0 -34275835.44264931
Gr3_re_1_2 0 s1 x3_re_a2 0 -18427255.878425643
Gr3_im_1_2 0 s1 x3_im_a2 0 6284086.921788914
Gr4_re_1_2 0 s1 x4_re_a2 0 -12377819.515522104
Gr4_im_1_2 0 s1 x4_im_a2 0 9350596.478190724
Gr5_re_1_2 0 s1 x5_re_a2 0 -11830623.913018655
Gr5_im_1_2 0 s1 x5_im_a2 0 -18289884.849719208
Gr6_re_1_2 0 s1 x6_re_a2 0 7215964.797701429
Gr6_im_1_2 0 s1 x6_im_a2 0 -12828171.492319917
Gd1_3 0 s1 p3 0 -7.474838205622144e-09
Fd1_3 0 s1 V3 -3.7374191028110716e-07
Gr1_re_1_3 0 s1 x1_re_a3 0 -8114.806648353528
Gr1_im_1_3 0 s1 x1_im_a3 0 -11427.410400058978
Gr2_re_1_3 0 s1 x2_re_a3 0 -16028.9567410448
Gr2_im_1_3 0 s1 x2_im_a3 0 -5966.885074440205
Gr3_re_1_3 0 s1 x3_re_a3 0 4075.8704884008293
Gr3_im_1_3 0 s1 x3_im_a3 0 276.7670762230662
Gr4_re_1_3 0 s1 x4_re_a3 0 84.70373809336901
Gr4_im_1_3 0 s1 x4_im_a3 0 -317.9332322588717
Gr5_re_1_3 0 s1 x5_re_a3 0 -557.6460365730943
Gr5_im_1_3 0 s1 x5_im_a3 0 378.77140775197034
Gr6_re_1_3 0 s1 x6_re_a3 0 374.2219074739543
Gr6_im_1_3 0 s1 x6_im_a3 0 419.70444803255003
Gd1_4 0 s1 p4 0 6.624408294903741e-09
Fd1_4 0 s1 V4 3.31220414745187e-07
Gr1_re_1_4 0 s1 x1_re_a4 0 -22767.139418203333
Gr1_im_1_4 0 s1 x1_im_a4 0 5052.732570265572
Gr2_re_1_4 0 s1 x2_re_a4 0 -2435.715119603552
Gr2_im_1_4 0 s1 x2_im_a4 0 6754.691200496797
Gr3_re_1_4 0 s1 x3_re_a4 0 -1634.2610864055061
Gr3_im_1_4 0 s1 x3_im_a4 0 721.8179273001083
Gr4_re_1_4 0 s1 x4_re_a4 0 76.39469150904273
Gr4_im_1_4 0 s1 x4_im_a4 0 -516.3250632423394
Gr5_re_1_4 0 s1 x5_re_a4 0 394.5613392198761
Gr5_im_1_4 0 s1 x5_im_a4 0 577.4773165057323
Gr6_re_1_4 0 s1 x6_re_a4 0 -389.5881619119112
Gr6_im_1_4 0 s1 x6_im_a4 0 -147.15118613184328
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 5.434902351007025e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 279280217749.1411
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -279280217749.1411
Rp1_im_im_a1 0 x1_im_a1 5.434902351007025e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.9571560583175335e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 210970101571.81296
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -210970101571.81296
Rp2_im_im_a1 0 x2_im_a1 3.9571560583175335e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 5.645320366341636e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 172816663234.47977
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -172816663234.47977
Rp3_im_im_a1 0 x3_im_a1 5.645320366341636e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.4227802985497282e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 97796933076.92148
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -97796933076.92148
Rp4_im_im_a1 0 x4_im_a1 1.4227802985497282e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.4868638091361387e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 127049480663.77307
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -127049480663.77307
Rp5_im_im_a1 0 x5_im_a1 1.4868638091361387e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.6002153953185548e-09
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 112853688933.81429
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -112853688933.81429
Rp6_im_im_a1 0 x6_im_a1 1.6002153953185548e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -4.636649186144558e-06
Fd2_1 0 s2 V1 -0.00023183245930722792
Gr1_re_2_1 0 s2 x1_re_a1 0 8498050.660464568
Gr1_im_2_1 0 s2 x1_im_a1 0 -4239320.2790899575
Gr2_re_2_1 0 s2 x2_re_a1 0 6929986.396335872
Gr2_im_2_1 0 s2 x2_im_a1 0 -34319398.72110514
Gr3_re_2_1 0 s2 x3_re_a1 0 -18394485.644741867
Gr3_im_2_1 0 s2 x3_im_a1 0 6339192.803199488
Gr4_re_2_1 0 s2 x4_re_a1 0 -12351804.05576455
Gr4_im_2_1 0 s2 x4_im_a1 0 9360462.033345254
Gr5_re_2_1 0 s2 x5_re_a1 0 -11859948.694143895
Gr5_im_2_1 0 s2 x5_im_a1 0 -18253146.79681543
Gr6_re_2_1 0 s2 x6_re_a1 0 7187577.382291529
Gr6_im_2_1 0 s2 x6_im_a1 0 -12823600.429237045
Gd2_2 0 s2 p2 0 -0.002646866209858411
Fd2_2 0 s2 V2 -0.13234331049292056
Gr1_re_2_2 0 s2 x1_re_a2 0 3825256941.5251336
Gr1_im_2_2 0 s2 x1_im_a2 0 -92945718.94606844
Gr2_re_2_2 0 s2 x2_re_a2 0 -171392342.68813562
Gr2_im_2_2 0 s2 x2_im_a2 0 -2911620180.939545
Gr3_re_2_2 0 s2 x3_re_a2 0 -130211151.10126343
Gr3_im_2_2 0 s2 x3_im_a2 0 27464910.549169738
Gr4_re_2_2 0 s2 x4_re_a2 0 -61144999.08822053
Gr4_im_2_2 0 s2 x4_im_a2 0 60827545.766473606
Gr5_re_2_2 0 s2 x5_re_a2 0 6727929.207423674
Gr5_im_2_2 0 s2 x5_im_a2 0 -75559141.85643893
Gr6_re_2_2 0 s2 x6_re_a2 0 66428441.24945773
Gr6_im_2_2 0 s2 x6_im_a2 0 -24290546.757812057
Gd2_3 0 s2 p3 0 2.968590449809308e-09
Fd2_3 0 s2 V3 1.484295224904654e-07
Gr1_re_2_3 0 s2 x1_re_a3 0 -16836.216363719377
Gr1_im_2_3 0 s2 x1_im_a3 0 7442.86918152308
Gr2_re_2_3 0 s2 x2_re_a3 0 10020.314556241821
Gr2_im_2_3 0 s2 x2_im_a3 0 7879.340955274564
Gr3_re_2_3 0 s2 x3_re_a3 0 2358.713480831551
Gr3_im_2_3 0 s2 x3_im_a3 0 -41.342708825923886
Gr4_re_2_3 0 s2 x4_re_a3 0 415.87718293446386
Gr4_im_2_3 0 s2 x4_im_a3 0 63.93461010186544
Gr5_re_2_3 0 s2 x5_re_a3 0 650.4471584351023
Gr5_im_2_3 0 s2 x5_im_a3 0 173.18145062301355
Gr6_re_2_3 0 s2 x6_re_a3 0 -67.93097261349597
Gr6_im_2_3 0 s2 x6_im_a3 0 -374.02855008926315
Gd2_4 0 s2 p4 0 1.2380398005919447e-08
Fd2_4 0 s2 V4 6.190199002959724e-07
Gr1_re_2_4 0 s2 x1_re_a4 0 -9983.242181579488
Gr1_im_2_4 0 s2 x1_im_a4 0 -14134.020257838003
Gr2_re_2_4 0 s2 x2_re_a4 0 -18170.676262629426
Gr2_im_2_4 0 s2 x2_im_a4 0 6075.018297056664
Gr3_re_2_4 0 s2 x3_re_a4 0 -1496.9510649162648
Gr3_im_2_4 0 s2 x3_im_a4 0 2797.472132224125
Gr4_re_2_4 0 s2 x4_re_a4 0 -576.4907284288557
Gr4_im_2_4 0 s2 x4_im_a4 0 302.34945157669154
Gr5_re_2_4 0 s2 x5_re_a4 0 501.202210066961
Gr5_im_2_4 0 s2 x5_im_a4 0 51.45604031629427
Gr6_re_2_4 0 s2 x6_re_a4 0 -22.46253332009344
Gr6_im_2_4 0 s2 x6_im_a4 0 -93.57133459811378
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 5.434902351007025e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 279280217749.1411
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -279280217749.1411
Rp1_im_im_a2 0 x1_im_a2 5.434902351007025e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.9571560583175335e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 210970101571.81296
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -210970101571.81296
Rp2_im_im_a2 0 x2_im_a2 3.9571560583175335e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 5.645320366341636e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 172816663234.47977
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -172816663234.47977
Rp3_im_im_a2 0 x3_im_a2 5.645320366341636e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.4227802985497282e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 97796933076.92148
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -97796933076.92148
Rp4_im_im_a2 0 x4_im_a2 1.4227802985497282e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.4868638091361387e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 127049480663.77307
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -127049480663.77307
Rp5_im_im_a2 0 x5_im_a2 1.4868638091361387e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.6002153953185548e-09
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 112853688933.81429
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -112853688933.81429
Rp6_im_im_a2 0 x6_im_a2 1.6002153953185548e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 2.342251296681998e-08
Fd3_1 0 s3 V1 1.171125648340999e-06
Gr1_re_3_1 0 s3 x1_re_a1 0 -17348.34629464627
Gr1_im_3_1 0 s3 x1_im_a1 0 23959.01194660243
Gr2_re_3_1 0 s3 x2_re_a1 0 23330.29990627343
Gr2_im_3_1 0 s3 x2_im_a1 0 11122.227614561132
Gr3_re_3_1 0 s3 x3_re_a1 0 403.0482876464485
Gr3_im_3_1 0 s3 x3_im_a1 0 -1876.159995000249
Gr4_re_3_1 0 s3 x4_re_a1 0 126.67639114375736
Gr4_im_3_1 0 s3 x4_im_a1 0 208.40560557474936
Gr5_re_3_1 0 s3 x5_re_a1 0 388.23605955744375
Gr5_im_3_1 0 s3 x5_im_a1 0 -487.1621719607835
Gr6_re_3_1 0 s3 x6_re_a1 0 272.91710605502743
Gr6_im_3_1 0 s3 x6_im_a1 0 45.34873381454139
Gd3_2 0 s3 p2 0 2.2889463065202812e-08
Fd3_2 0 s3 V2 1.1444731532601407e-06
Gr1_re_3_2 0 s3 x1_re_a2 0 5273.459737102893
Gr1_im_3_2 0 s3 x1_im_a2 0 28384.81919140154
Gr2_re_3_2 0 s3 x2_re_a2 0 5301.148809290686
Gr2_im_3_2 0 s3 x2_im_a2 0 -4532.399148499737
Gr3_re_3_2 0 s3 x3_re_a2 0 -1510.0148670008086
Gr3_im_3_2 0 s3 x3_im_a2 0 1956.9328757646601
Gr4_re_3_2 0 s3 x4_re_a2 0 219.1246543705912
Gr4_im_3_2 0 s3 x4_im_a2 0 278.44262389918873
Gr5_re_3_2 0 s3 x5_re_a2 0 448.3419098419253
Gr5_im_3_2 0 s3 x5_im_a2 0 -485.5668908795491
Gr6_re_3_2 0 s3 x6_re_a2 0 -241.14033803577897
Gr6_im_3_2 0 s3 x6_im_a2 0 459.39171196080844
Gd3_3 0 s3 p3 0 0.00025293084136369416
Fd3_3 0 s3 V3 0.012646542068184708
Gr1_re_3_3 0 s3 x1_re_a3 0 -321838908.0851222
Gr1_im_3_3 0 s3 x1_im_a3 0 151638238.42104363
Gr2_re_3_3 0 s3 x2_re_a3 0 -78868492.05787224
Gr2_im_3_3 0 s3 x2_im_a3 0 270326152.09363085
Gr3_re_3_3 0 s3 x3_re_a3 0 10797103.833597805
Gr3_im_3_3 0 s3 x3_im_a3 0 1568853.144999299
Gr4_re_3_3 0 s3 x4_re_a3 0 3737703.5551639763
Gr4_im_3_3 0 s3 x4_im_a3 0 4319557.675583881
Gr5_re_3_3 0 s3 x5_re_a3 0 -9723120.036587542
Gr5_im_3_3 0 s3 x5_im_a3 0 5674196.720171031
Gr6_re_3_3 0 s3 x6_re_a3 0 -1061355.2137223054
Gr6_im_3_3 0 s3 x6_im_a3 0 12981120.157086432
Gd3_4 0 s3 p4 0 9.147931096209906e-08
Fd3_4 0 s3 V4 4.573965548104953e-06
Gr1_re_3_4 0 s3 x1_re_a4 0 -63032.839806843316
Gr1_im_3_4 0 s3 x1_im_a4 0 -41984.16387758042
Gr2_re_3_4 0 s3 x2_re_a4 0 -161292.4572349717
Gr2_im_3_4 0 s3 x2_im_a4 0 136532.27440771958
Gr3_re_3_4 0 s3 x3_re_a4 0 49723.19250516458
Gr3_im_3_4 0 s3 x3_im_a4 0 43383.86079769827
Gr4_re_3_4 0 s3 x4_re_a4 0 21988.628245131145
Gr4_im_3_4 0 s3 x4_im_a4 0 17127.64865312961
Gr5_re_3_4 0 s3 x5_re_a4 0 158265.22006749164
Gr5_im_3_4 0 s3 x5_im_a4 0 96605.23193266962
Gr6_re_3_4 0 s3 x6_re_a4 0 -39873.08913753493
Gr6_im_3_4 0 s3 x6_im_a4 0 86428.31378875999
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 5.434902351007025e-11
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 279280217749.1411
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -279280217749.1411
Rp1_im_im_a3 0 x1_im_a3 5.434902351007025e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 3.9571560583175335e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 210970101571.81296
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -210970101571.81296
Rp2_im_im_a3 0 x2_im_a3 3.9571560583175335e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 5.645320366341636e-10
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 172816663234.47977
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -172816663234.47977
Rp3_im_im_a3 0 x3_im_a3 5.645320366341636e-10
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.4227802985497282e-09
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 97796933076.92148
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -97796933076.92148
Rp4_im_im_a3 0 x4_im_a3 1.4227802985497282e-09
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.4868638091361387e-09
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 127049480663.77307
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -127049480663.77307
Rp5_im_im_a3 0 x5_im_a3 1.4868638091361387e-09
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 1.6002153953185548e-09
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 112853688933.81429
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -112853688933.81429
Rp6_im_im_a3 0 x6_im_a3 1.6002153953185548e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 3.1986928930570616e-08
Fd4_1 0 s4 V1 1.599346446528531e-06
Gr1_re_4_1 0 s4 x1_re_a1 0 -24506.678323334014
Gr1_im_4_1 0 s4 x1_im_a1 0 18137.07058614253
Gr2_re_4_1 0 s4 x2_re_a1 0 -5746.218104058703
Gr2_im_4_1 0 s4 x2_im_a1 0 19727.40841251301
Gr3_re_4_1 0 s4 x3_re_a1 0 -153.47753008885985
Gr3_im_4_1 0 s4 x3_im_a1 0 2289.67796551161
Gr4_re_4_1 0 s4 x4_re_a1 0 178.90372329550388
Gr4_im_4_1 0 s4 x4_im_a1 0 53.2138963649947
Gr5_re_4_1 0 s4 x5_re_a1 0 -312.5820632998687
Gr5_im_4_1 0 s4 x5_im_a1 0 100.34131540825777
Gr6_re_4_1 0 s4 x6_re_a1 0 9.87078662103813
Gr6_im_4_1 0 s4 x6_im_a1 0 -87.58327921134844
Gd4_2 0 s4 p2 0 2.6770726578301343e-08
Fd4_2 0 s4 V2 1.338536328915067e-06
Gr1_re_4_2 0 s4 x1_re_a2 0 -20867.601261310476
Gr1_im_4_2 0 s4 x1_im_a2 0 9734.7675665667
Gr2_re_4_2 0 s4 x2_re_a2 0 -1010.6546724538342
Gr2_im_4_2 0 s4 x2_im_a2 0 7377.260249599655
Gr3_re_4_2 0 s4 x3_re_a2 0 -966.4706954777862
Gr3_im_4_2 0 s4 x3_im_a2 0 972.844168893489
Gr4_re_4_2 0 s4 x4_re_a2 0 -190.05265299380036
Gr4_im_4_2 0 s4 x4_im_a2 0 385.0444467903173
Gr5_re_4_2 0 s4 x5_re_a2 0 -402.8514542678237
Gr5_im_4_2 0 s4 x5_im_a2 0 663.3870573013745
Gr6_re_4_2 0 s4 x6_re_a2 0 -417.96327618941865
Gr6_im_4_2 0 s4 x6_im_a2 0 253.42752560692995
Gd4_3 0 s4 p3 0 5.361963062016967e-08
Fd4_3 0 s4 V3 2.6809815310084837e-06
Gr1_re_4_3 0 s4 x1_re_a3 0 -24982.47864868699
Gr1_im_4_3 0 s4 x1_im_a3 0 -38625.183880409575
Gr2_re_4_3 0 s4 x2_re_a3 0 -161274.44531710903
Gr2_im_4_3 0 s4 x2_im_a3 0 102919.0970248663
Gr3_re_4_3 0 s4 x3_re_a3 0 49077.51893428183
Gr3_im_4_3 0 s4 x3_im_a3 0 40574.19538809953
Gr4_re_4_3 0 s4 x4_re_a3 0 21486.450378606994
Gr4_im_4_3 0 s4 x4_im_a3 0 16442.598621941386
Gr5_re_4_3 0 s4 x5_re_a3 0 157948.122514438
Gr5_im_4_3 0 s4 x5_im_a3 0 96758.64929600418
Gr6_re_4_3 0 s4 x6_re_a3 0 -39178.403553282275
Gr6_im_4_3 0 s4 x6_im_a3 0 85246.06718102276
Gd4_4 0 s4 p4 0 0.00043224322748311694
Fd4_4 0 s4 V4 0.02161216137415585
Gr1_re_4_4 0 s4 x1_re_a4 0 -238776209.74497056
Gr1_im_4_4 0 s4 x1_im_a4 0 232559696.4397571
Gr2_re_4_4 0 s4 x2_re_a4 0 -181572746.51333478
Gr2_im_4_4 0 s4 x2_im_a4 0 295424246.0408539
Gr3_re_4_4 0 s4 x3_re_a4 0 -32537803.302328184
Gr3_im_4_4 0 s4 x3_im_a4 0 23456934.825680703
Gr4_re_4_4 0 s4 x4_re_a4 0 205936.36804281521
Gr4_im_4_4 0 s4 x4_im_a4 0 5027503.310252401
Gr5_re_4_4 0 s4 x5_re_a4 0 -5454775.714255725
Gr5_im_4_4 0 s4 x5_im_a4 0 828520.2763407297
Gr6_re_4_4 0 s4 x6_re_a4 0 -5418256.697146825
Gr6_im_4_4 0 s4 x6_im_a4 0 1725521.4287915833
*
* State networks driven by port 4
Cx1_re_a4 x1_re_a4 0 1.0
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562373095
Fx1_re_a4 0 x1_re_a4 V4 7.0710678118654755
Rp1_re_re_a4 0 x1_re_a4 5.434902351007025e-11
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 279280217749.1411
Cx1_im_a4 x1_im_a4 0 1.0
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -279280217749.1411
Rp1_im_im_a4 0 x1_im_a4 5.434902351007025e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 3.9571560583175335e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 210970101571.81296
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -210970101571.81296
Rp2_im_im_a4 0 x2_im_a4 3.9571560583175335e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 5.645320366341636e-10
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 172816663234.47977
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -172816663234.47977
Rp3_im_im_a4 0 x3_im_a4 5.645320366341636e-10
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.4227802985497282e-09
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 97796933076.92148
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -97796933076.92148
Rp4_im_im_a4 0 x4_im_a4 1.4227802985497282e-09
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.4868638091361387e-09
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 127049480663.77307
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -127049480663.77307
Rp5_im_im_a4 0 x5_im_a4 1.4868638091361387e-09
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 1.6002153953185548e-09
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 112853688933.81429
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -112853688933.81429
Rp6_im_im_a4 0 x6_im_a4 1.6002153953185548e-09
.ENDS s_equivalent
